US06544985B2
3-(2-Methyl-oxazol-4-yl)-benzoic acid methyl ester (1.02 g) was treated with lithium tert.-butyl acetate according to the general procedure K (method b) to give crude 3-oxo-3-(3-(2-methyl-oxazol-4-yl)-phenyl]-propionic acid tert -butyl ester (1.50 g) as a pale-yellow oil.

reactant | 3-(2-Methyl-oxazol-4-yl)-benzoic acid methyl ester | 1.02 g | COC(C1=CC(=CC=C1)C=1N=C(OC1)C)=O | C12H11NO3
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | 3-oxo-3-(3-(2-methyl-oxazol-4-yl)-phenyl]-propionic acid tert -butyl ester | 1.50 g | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C=1N=C(OC1)C)=O)=O | C17H19NO4
